US04780480
To a solution of 250 mg of (7-(4-chlorobenzoyl)benzofuran-5-ylacetic acid in 5 ml of methanol is added 1 molar equivalent of sodium hydroxide in the form of 0.1N solution. The solvent is evaporated to dryness and the residue taken up in 2 ml of methanol, followed by precipitation with ether, to yield sodium 7-(4-chlorobenzoyl)benzofuran-5-ylacetate.

reactant | 7-(4-chlorobenzoyl)benzofuran-5-ylacetic acid | ClC1=CC=C(C(=O)C2=CC(=CC=3C=COC32)CC(=O)O)C=C1 | C17H11ClO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | sodium 7-(4-chlorobenzoyl)benzofuran-5-ylacetate | ClC1=CC=C(C(=O)C2=CC(=CC=3C=COC32)CC(=O)[O-])C=C1.[Na+] | InChI=1S/C17H11ClO4.Na/c18-13-3-1-11(2-4-13)16(21)14-8-10(9-15(19)20)7-12-5-6-22-17(12)14;/h1-8H,9H2,(H,19,20);/q;+1/p-1
